US04589905
A solution of 1.23 g of 5-cyano-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester and 8 ml of 40% aqueous monomethylamine in 20 ml of DMF was stirred at approximately 25° C. for 16 hours. The reaction mixture was poured into 150 ml of ice water and the precipitated solid was collected by filtration. The isolated material was recrystallized from ethanol to provide 535 mg of 5-cyano-1-[2-(trifluoromethyl)-4-chlorophenyl]-N-methyl-1H-pyrazole-4-carboxamide. MP=162.5°-164° C.

reactant | 5-cyano-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester | 1.23 g | C(#N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)OCC | C14H9ClF3N3O2
reactant | monomethylamine | 8 ml | CN | CH5N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-[2-(trifluoromethyl)-4-chlorophenyl]-N-methyl-1H-pyrazole-4-carboxamide | 535 mg | C(#N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)NC | C13H8ClF3N4O
